US04342587
Methyl 2-{[(4,5,6-trimethylpyrimidin-2-yl)aminocarbonyl]-aminosulfonyl}benzoate
To a mixture of 1.0 gram (0.0073 mole) of 2-amino-4,5,6-trimethylpyrimidine and 5.0 ml of dried methylene chloride stirring magnetically in a 50 ml RB single neck flask, 2.1 grams of methyl 2-(isocyanatosulfonyl)benzoate was added at room temperature and the mixture stirred at room temperature for 24 hours. Butyl chloride (4 ml) was added with constant stirring and the insoluble product filtered, washed immediately with butyl chloride and dried. (Yield 1.3 grams, m.p. 152°-161°). IR (Nujol): 5.60, 5.75 (C=O), 11.25 11.90 microns; NMR (TFA-d): δ2.30 (s,3H,CH3), 2.65 (s, 6H, 2CH3), 4.00 (s, 3H, CO2CH3), 7.60-8.60 (m, ArH).

reactant | 2-amino-4,5,6-trimethylpyrimidine | 0.0073 mole, 1.0 gram | NC1=NC(=C(C(=N1)C)C)C | C7H11N3
reactant | methylene chloride | 5.0 ml | C(Cl)Cl | CH2Cl2
reactant | methyl 2-(isocyanatosulfonyl)benzoate | 2.1 grams | N(=C=O)S(=O)(=O)C1=C(C(=O)OC)C=CC=C1 | C9H7NO5S
solvent | Butyl chloride | 4 ml | C(CCC)Cl | C4H9Cl
product | Methyl 2-{[(4,5,6-trimethylpyrimidin-2-yl)aminocarbonyl]-aminosulfonyl}benzoate | CC1=NC(=NC(=C1C)C)NC(=O)NS(=O)(=O)C1=C(C(=O)OC)C=CC=C1 | C16H18N4O5S
